US06610707B1
2-[4-(3-[(2S)-2-Piperidyl]-1,2,4-oxadiazol-5-ylmethoxy)benzyl]-1,3-isoindolinedione Hydrochloride
The title compound was prepared by the method of Preparation 7 from tert-butyl (2S)-2-[5-(4-[(1,3-dioxo-2,3-dihydro-1H-2-isoindolyl)methyl]-phenoxymethyl)-1,2,4-oxadiazol-3-yl]-1-piperidinecarboxylate [see Preparation 14] and hydrogen chloride gas to afford 2-[4-(3-[(2S)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethoxy)benzyl]-1,3-isoindolinedione hydrochloride as a white solid.

reactant | tert-butyl (2S)-2-[5-(4-[(1,3-dioxo-2,3-dihydro-1H-2-isoindolyl)methyl]-phenoxymethyl)-1,2,4-oxadiazol-3-yl]-1-piperidinecarboxylate | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC=C(OCC2=NC(=NO2)[C@H]2N(CCCC2)C(=O)OC(C)(C)C)C=C1 | C28H30N4O6
reactant | hydrogen chloride | Cl | ClH
product | 2-[4-(3-[(2S)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethoxy)benzyl]-1,3-isoindolinedione hydrochloride | Cl.N1[C@@H](CCCC1)C1=NOC(=N1)COC1=CC=C(CN2C(C3=CC=CC=C3C2=O)=O)C=C1 | InChI=1S/C23H22N4O4.ClH/c28-22-17-5-1-2-6-18(17)23(29)27(22)13-15-8-10-16(11-9-15)30-14-20-25-21(26-31-20)19-7-3-4-12-24-19;/h1-2,5-6,8-11,19,24H,3-4,7,12-14H2;1H/t19-;/m0./s1
